US06417202B1
3-Acetyl-2,4-dimethyl-1-{2-(trimethylsilyl)ethoxymethyl}-1H-pyrrole (Step 1)
To a stirred solution of 3-acetyl-2,4-dimethyl-1H-pyrrole (commercially available from Aldrich Chem. Co. Inc., 1.50 g, 10.6 mmol) in DMF (40 mL) was added NaH (60% oil dispersion, 0.85 g, 21.2 mmol) at room temperature under nitrogen. After stirring for 30 minutes at room temprature the resulting suspension was cooled to 0° C. and added 2-(trimethylsilyl)ethoxymethyl chloride (3 mL, 15.9 mmol). The reaction mixture was warm to room temperature and stirred for 3 hours. The mixture was quenched with aqueous saturated NaHCO3 solution, and the whole extracted with diethyl ether (100 mL×2). The combined organic layers were washed with brine (50 mL), dried over MgSO4, concentrated iii vaciio. Chromatographic purification of the crude product eluting ethyl acetate-hexane (1:10) gave the subtitle product (2.32 g, 82% yield).

reactant | 3-acetyl-2,4-dimethyl-1H-pyrrole | C(C)(=O)C1=C(NC=C1C)C | C8H11NO
reactant | NaH | 21.2 mmol, 0.85 g | [H-].[Na+]
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 15.9 mmol, 3 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 3-Acetyl-2,4-dimethyl-1-{2-(trimethylsilyl)ethoxymethyl}-1H-pyrrole | 2.32 g, 82% yield | C(C)(=O)C1=C(N(C=C1C)COCC[Si](C)(C)C)C | C14H25NO2Si
